US06489344B1
[4-(2,4-dichlorophenyl)-5-(1-methylimidazol-2-yl)pyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine was prepared from 1,2-dimethylimidazole using the general method for [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | 1,2-dimethylimidazole | CN1C(=NC=C1)C | C5H8N2
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C20H16Cl2N8O2
product | [4-(2,4-dichlorophenyl)-5-(1-methylimidazol-2-yl)pyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1N(C=CN1)C)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C21H18Cl2N8O2
